US04377576
5,10-Dihydro-5-[3-morpholino-propionyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
6.0 gm (0.02 mol) of 5-(3-chloro-propionyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and 10 gm (0.11 mol) of morpholine were refluxed in 200 ml of isopropanol for 2 hours. The solvent was distilled off, the residue was dissolved in methylene chloride, and the solution was washed with water. After distilling off the solvent, the residue was recrystallized from isopropanol.

reactant | 5-(3-chloro-propionyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.02 mol, 6.0 gm | ClCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C16H13ClN2O2
reactant | morpholine | 0.11 mol, 10 gm | N1CCOCC1 | C4H9NO
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 5,10-Dihydro-5-[3-morpholino-propionyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | O1CCN(CC1)CCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C20H21N3O3
